US08357717B2
Stage 5: Methyl isoindoline-5-carboxylate hydrochloride
10% Pd/C (4.3 g) was added to a solution of methyl 2-benzylisoindoline-5-carboxylate hydrochloride (43 g; 1 equiv.) in 800 ml of methanol. The mixture was hydrogenated for 90 minutes at 60 mm hydrogen. When the conversion was complete, the reaction mixture was filtered, the filtrate was concentrated under reduced pressure and the crude product was recrystallised from chloroform. In this manner the desired product (25.39 g; 84%) was obtained in the form of a white solid having a purity of 98.63%.

reactant | methyl 2-benzylisoindoline-5-carboxylate hydrochloride | 43 g, 1 equiv. | Cl.C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C(=O)OC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 800 ml | CO | CH4O
catalyst | Pd/C | 4.3 g | [Pd] | Pd
product | Methyl isoindoline-5-carboxylate hydrochloride | 25.39 g, 84% | Cl.C1NCC2=CC(=CC=C12)C(=O)OC | InChI=1S/C10H11NO2.ClH/c1-13-10(12)7-2-3-8-5-11-6-9(8)4-7;/h2-4,11H,5-6H2,1H3;1H
